Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
mensenteric ischemia

 
Major Surgical or Invasive Procedure:
Colonoscopy by gastroenterology service - changes consistent 
with mensenteric ischemia

 
History of Present Illness:
___ F who is well known to the general surgery service after 
having undergone 2 small bowel resections due to acute on 
chronic mesenteric ischemia back in ___. She was 
discharged to rehab on ___ and returns now with daily bouts of 
dark black stool. She reports ___ bowel movements per day that 
are very dark. This has been happening since her discharge to 
rehab. She reports receiving 2 units of blood 2 days ago for a 
Hct of ~23 and increased appropriately to 30. Today she was back 
down to 27. She denies fevers, chill, nausea, vomiting,or 
abdominal pain. She has not had a very good appetite, so
continues to receive TPN at rehab.
 
Past Medical History:
PMH: MI early ___, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___,
hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. Denies any GI disease in her family.

 
Physical Exam:
Vitals:99.2  70  98/56  18  100% RA
Gen:A&O x 3, NAD
HEENT:PERRL, EOMI, anicteric
___ s1 s2,RRR
Chest:CTAB
Abd:Abdomen soft, nontender, nondistended. Midline incision 
C/D/I.
___ warm, no edema

 
Pertinent Results:
___ :CTA PELVIS W&W/O C & RECONS
1. Wall edema of loops of distal ileum and of the ascending 
colon(in 
particular hepatic flexure and cecum) most compartible with 
ileitis/colitis which could be ischemic, inflammatory, and/or 
infectious. No pneumatosis or portal venous gas. 
2. Pelvic free fluid. Very trace pericardial effusion. 
3. High-grade stenosis at the origin of celiac axis, unchanged. 
Patent SMA stent. Occlusion of the ___ stent, unchanged.  
4. 0.7 cm hyperdense focus at the hepatic dome, as above, may be 
perfusion anomaly, particularly in absence of known malignancy; 
however it is incompletely characterized. Non-urgent MRI 
suggested for further 
characterization. 
5. Left adrenal adenoma. 
.
.

___ flexure, biopsy:No granuloma or dysplasia 
seen. The typical changes of ischemic colitis are not seen.
.
.

___ 05:20PM BLOOD WBC-6.6 RBC-2.84* Hgb-9.3* Hct-27.5* 
MCV-97 MCH-32.7* MCHC-33.8 RDW-18.6* Plt ___
___ 10:05AM BLOOD WBC-3.4* RBC-2.69* Hgb-8.4* Hct-25.2* 
MCV-94 MCH-31.3 MCHC-33.4 RDW-19.6* Plt ___
___ 02:51PM BLOOD Hct-25.9*
___ 09:00AM BLOOD WBC-4.3 RBC-3.70*# Hgb-11.4*# Hct-33.6* 
MCV-91 MCH-30.9 MCHC-34.1 RDW-18.6* Plt ___
___ 03:53AM BLOOD WBC-5.2 RBC-3.42* Hgb-10.8* Hct-30.6* 
MCV-89 MCH-31.7 MCHC-35.4* RDW-18.7* Plt ___
___ 05:14AM BLOOD WBC-3.3* RBC-3.66* Hgb-11.6* Hct-34.4* 
MCV-94 MCH-31.8 MCHC-33.8 RDW-17.7* Plt ___
___ 04:55AM BLOOD WBC-4.8 RBC-3.41* Hgb-10.9* Hct-32.1* 
MCV-94 MCH-32.0 MCHC-33.9 RDW-17.3* Plt ___
___ 06:14AM BLOOD WBC-4.9 RBC-3.13* Hgb-10.1* Hct-29.4* 
MCV-94 MCH-32.1* MCHC-34.1 RDW-17.1* Plt ___
___ 10:05AM BLOOD ___ PTT-29.3 ___
___ 05:20PM BLOOD Glucose-98 UreaN-17 Creat-0.4 Na-138 
K-4.0 Cl-105 HCO3-27 AnGap-10
___ 10:05AM BLOOD Glucose-78 UreaN-9 Creat-0.2* Na-140 
K-3.6 Cl-111* HCO3-21* AnGap-12
___ 03:53AM BLOOD Glucose-109* UreaN-9 Creat-0.3* Na-142 
K-2.9* Cl-109* HCO3-27 AnGap-9
___ 11:11PM BLOOD Glucose-117* UreaN-7 Creat-0.3* Na-139 
K-4.6 Cl-109* HCO3-25 AnGap-10
___ 10:09PM BLOOD Glucose-221* UreaN-10 Creat-0.4 Na-139 
K-4.2 Cl-108 HCO3-26 AnGap-9
___ 06:07AM BLOOD Glucose-84 UreaN-11 Creat-0.4 Na-140 
K-4.0 Cl-109*
___ 05:43AM BLOOD Glucose-79 UreaN-17 Creat-0.3* Na-139 
K-4.3 Cl-107 HCO3-26 AnGap-10
___ 06:14AM BLOOD Glucose-103* UreaN-11 Creat-0.4 Na-139 
K-3.8 Cl-106 HCO3-26 AnGap-11
___ 09:00AM BLOOD calTIBC-156* Ferritn-408* TRF-120*
___ 05:20PM BLOOD LtGrnHD-HOLD
 
Brief Hospital Course:
The patient was admitted to the ___ with c/o  ___ bowel 
movements of dark black stool per day.She underwent CTA of abd 
and pelvis which was suggestive of ileitis/colitis which could 
be ischemic, inflammatory, and/or infectious. She received 2 
more units of prbcs for low HCT and IV pantoprazole was started. 
Subsequently, she underwent a colonoscopy which showed changes 
consistent with colitis. While the biopsy did not show classic 
changes of ischemia, the appearance
during your colonoscopy was suggestive of ischemic colitis.
Her diet was advanced to clears  and then a regular diet which 
she tolerated well.TPN was weaned off,tube feeds were started 
along with calorie counts on po feeds.Her tube feeds were 
subsequently d/ced as she was taking adequate amounts of po 
feeds.On the day of discharge the patient was tolerating a 
regular diet, having no abdominal pain, passing non melanotic 
stools,having stable HCT and ambulating independently. She will 
follow up with Dr ___ on the ___.
 
Medications on Admission:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
5. quetiapine 25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.  
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
5. quetiapine 25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.  
6. Pepcid 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic mesenteric ischemia
Failure to thrive

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted to the hospital on ___ with melena. You were 
diagnosed with chronic mesenteric ischemia. You had a 
colonoscopy which showed evidence of ischemia . You're being 
discharged home after tolerating regular diet with boost 
supplements.
 
Followup Instructions:
___